### PR TITLE
[Merged by Bors] - feat: a function is always continuous at an isolated point

### PR DESCRIPTION
**Pull request by CoolRmal**
This PR adds a lemma `ContinuousWithinAt.of_not_accPt`, which says that a function is continuous at a point `x` within a set `s` if `x` is not an accumulated point of `s`.

Zulip discussion: [#Is there code for X? > Continuity at isolated points](https://leanprover.zulipchat.com/#narrow/channel/217875-Is-there-code-for-X.3F/topic/Continuity.20at.20isolated.20points/with/562319753)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/ContinuousOn.lean [hunk 1]
```diff
@@ -296,11 +296,22 @@ theorem continuousWithinAt_diff_self :
     ContinuousWithinAt f (s \ {x}) x ↔ ContinuousWithinAt f s x :=
   continuousWithinAt_singleton.diff_iff
 
+/-- A function is continuous at a point `x` within a set `s` if `x` is not an accumulated point of
```
Comment (peabrainiac) [inline Mathlib/Topology/ContinuousOn.lean]:
```suggestion
/-- A function is continuous at a point `x` within a set `s` if `x` is not an accumulation point of
```

File: Mathlib/Topology/ContinuousOn.lean [hunk 2]
```diff
@@ -296,11 +296,22 @@ theorem continuousWithinAt_diff_self :
...
+`s`. -/
+lemma ContinuousWithinAt.of_not_accPt (h : ¬AccPt x (𝓟 s)) : ContinuousWithinAt f s x := by
```
Comment (peabrainiac) [inline Mathlib/Topology/ContinuousOn.lean]: I think it would make sense to call this `continuousWithinAt_of_not_accPt` instead to stay consistent with e.g. `continuousWithinAt_of_notMem_closure` - since the lemma doesn't take in any `ContinuousWithinAt` hypothesis, dot notation can't be used most of the time anyway. This also applies to the second lemma of course.

File: Mathlib/Topology/ContinuousOn.lean [hunk 3]
```diff
@@ -296,11 +296,22 @@ theorem continuousWithinAt_diff_self :
...
+  rw [← continuousWithinAt_diff_self]
+  simp_all [ContinuousWithinAt, AccPt, ← nhdsWithin_inter', Set.diff_eq, Set.inter_comm]
+
 @[simp]
 theorem continuousWithinAt_compl_self :
     ContinuousWithinAt f {x}ᶜ x ↔ ContinuousAt f x := by
   rw [compl_eq_univ_diff, continuousWithinAt_diff_self, continuousWithinAt_univ]
 
+/-- A function is continuous at a point `x` if `x` is isolated. -/
+lemma ContinuousAt.of_not_accPt (h : ¬AccPt x (𝓟 {x}ᶜ)) : ContinuousAt f x := by
```
Comment (peabrainiac) [inline Mathlib/Topology/ContinuousOn.lean]: Note that `AccPt x (𝓟 {x}ᶜ)` is equivalently just `AccPt x ⊤`:
```
import Mathlib

open Topology Filter Set

example {α : Type*} [TopologicalSpace α] {x : α} : AccPt x (𝓟 {x}ᶜ) ↔ AccPt x ⊤ := by
  simp [← principal_univ, accPt_principal_iff_nhdsWithin, ← compl_eq_univ_diff]
```
I don't know which of the two forms we should prefer. Maybe someone else can give an opinion on that?

Comment (CoolRmal) [reply Mathlib/Topology/ContinuousOn.lean]: Thanks for pointing this out! I prefer `AccPt x ⊤`, but I guess I'll let the official reviewer to decide before I make any further changes.

**Review by dagurtomas — COMMENTED** [review]
I think there is nothing wrong with having both versions, you may add something like
```lean
/-- A function is continuous at a point `x` if `x` is isolated. -/
lemma continuousAt_of_not_accPt_top (h : ¬AccPt x ⊤) : ContinuousAt f x :=
  continuousAt_of_not_accPt fun hh ↦ h <| AccPt.mono hh (by simp)
```
if you think it is useful. 

maintainer delegate

**Review by j-loreaux — COMMENTED** [review]
bors merge
